US04008267
10 gms. of the 7-iodo-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine from part (a) of this example are refluxed for 6 hours with 160 ml. of acetic anhydride. The solution is evaporated under vacuum following which a thick oil is obtained, which when admixed with methanol gives crystalline N-acetyl-7-iodo-2 oxo-2,3,4,5-tetrahydro-1-H-1-benzazepine with a melting point of 116° to 117° C. Yield 9.5 gm.

reactant | 7-iodo-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine | IC=1C=CC2=C(CCCC(N2)=O)C1 | C10H10INO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
product | N-acetyl-7-iodo-2 oxo-2,3,4,5-tetrahydro-1-H-1-benzazepine | C(C)(=O)N1C(CCCC2=C1C=CC(=C2)I)=O | C12H12INO2
